US08242134B2
2-Ethylamino-8-fluoro-3-methyl-1-oxo-1,2-dihydro-isoquinoline-4-carboxylic acid
A stirred suspension of 4-bromo-2-ethylamino-8-fluoro-3-methyl-2H-isoquinolin-1-one (1.526 g, 4.847 mmol), palladium acetate (108.8 mg, 0.4847 mmol), 4,5-bis-diphenylphosphanyl-9,9-dimethyl-9H-xanthene (=Xantphos, 280.5 mg, 0.4847 mmol) and sodium carbonate (1.541 g, 14.54 mmol) in toluene (10 mL) was filled with carbon monoxide to 5 bars (6 times). It was stirred on hot oil bath (122° C., P=6 bar) for 19 hours, allowed to cool and the excess CO was released. It was quenched with 20 ml EtOH, filtered and partitioned between 3:1 Ether-EtOAc (3×100 ml) and 5% aq. NaHCO3 (100 ml). Each organic layer was washed with 2×5 ml 5% aq. NaHCO3. The organic solution contained crude unreacted starting material (865 mg). The combined aq. solution was acidified with 3M aq. HCl (pH=0) at 0° C., extracted with ethyl acetate (4×50 ml), each organic layer was washed with sat. aq. NaCl (2×5 ml). The combined org. solution was dried (Na2SO4) and rotovaped to give the pure title compound (190 mg; yield=15%) as a dark solid. LC-MS (m/z) 265.2 (MH+), fragments: 221.4 (M—CO2), 178.7 (M—CO2-EtNH); tR0.74. 1H NMR (500 MHz, DMSO-d6): 1.09 (t, J=7.2 Hz, 3H, Me of Et), 2.51 (s, 3H, Me (overlapped with dmso-d5)), 2.9 (br., 2H, CH2 of Et), 3.4 (very br., H2O+CO2H), 6.18 (br., 1H, NH), 7.25 (dd, J=8.0 Hz, J (H—F)=11.7 Hz, 1H, C7H), 7.44 (d, J=8.2 Hz, C5H), 7.74 (dt, J (d, H—F)=5.1 Hz, J (t)=8.2 Hz, 1H, C6H). 19F NMR (470 MHz, CFCl3=0 ppm): −110.78 (dd, J=4.9 Hz, J=11.5 Hz). 13C APT (125 MHz, DMSO-d5=39.87 ppm): 12.89 (Me of Et), 17.18 (Me), 44.69 (CH2 of Et), 110.46 (s, C), 112.76 (d, J=5.8 Hz, C), 113.18 (d, J=21 Hz, C7H), 120.01 (d, J=3.6 Hz, C5H), 134.44 (d, J=9.9 Hz, C6H), 135.94 (C), 143.13 (C), 157.79 (d, J=4.8 Hz, C), 161.64 (d, J=262 Hz, C8-F), 168.57 (C).

reactant | 4-bromo-2-ethylamino-8-fluoro-3-methyl-2H-isoquinolin-1-one | 4.847 mmol, 1.526 g | BrC1=C(N(C(C2=C(C=CC=C12)F)=O)NCC)C | C12H12BrFN2O
reactant | 4,5-bis-diphenylphosphanyl-9,9-dimethyl-9H-xanthene | 0.4847 mmol, 280.5 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | sodium carbonate | 14.54 mmol, 1.541 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | carbon monoxide | [C]=O | CO
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.4847 mmol, 108.8 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-Ethylamino-8-fluoro-3-methyl-1-oxo-1,2-dihydro-isoquinoline-4-carboxylic acid | 190 mg, yield=15% | C(C)NN1C(C2=C(C=CC=C2C(=C1C)C(=O)O)F)=O | C13H13FN2O3
